US07846956B2
In a nitrogen atmosphere, 0.30 g of ethyl 2-(2-propynyloxy)-1,3-thiazole-4-carboxylate was dissolved in 10 ml of tetrahydrofuran, and 3.3 ml of a solution (1 mol/L) of diisobutylaluminum hydride in toluene was added dropwise at 0° C. The mixture was stirred at 0° C. for 1 hour. The reaction mixture was added to aqueous saturated sodium chloride and then extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain 0.22 g of [2-(2-propynyloxy)-thiazol-4-yl]methanol.

reactant | ethyl 2-(2-propynyloxy)-1,3-thiazole-4-carboxylate | 0.30 g | C(C#C)OC=1SC=C(N1)C(=O)OCC | C9H9NO3S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [2-(2-propynyloxy)-thiazol-4-yl]methanol | 0.22 g | C(C#C)OC=1SC=C(N1)CO | C7H7NO2S
